US09144757B2
To 4-amino-3-nitrobenzonitrile (4.98 g, 36 mol) in 2-propanol (15 ml) and water (30 ml) was added zinc bromide (13.80 g, 61 mmol) followed by sodium azide (5.81 g, 89 mmol). The reaction mixture was at heated at 80° C. for 10 hours. The reaction was cooled and then analyzed by HPLC. Water (15 ml) was added and the orange colored mixture adjusted to pH 3.0 with 50% (v/v) HCl. The solid was washed with water (50 ml) and dried in an oven at 90° C. to yield an orange yellow colored solid 2-nitro-4-(2H-tetrazol-5-yl)-phenylamine (6.59 g), Rt=8.8 mins, 1H NMR (d6-DMSO, 400 MHz) 8.47 ppm (1H, d, 2 Hz), 7.86 ppm (1H, d of d, 9 Hz, 2 Hz), 7.58 ppm (2.3H bs), 6.96 ppm (1H d, 9 Hz). MS (Electrospray+) 206 m/z (M+), 228 m/z (M+Na).

reactant | 4-amino-3-nitrobenzonitrile | 36 mol, 4.98 g | NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | sodium azide | 89 mmol, 5.81 g | [N-]=[N+]=[N-].[Na+]
reactant | HCl | Cl | ClH
solvent | 2-propanol | 15 ml | CC(C)O | C3H8O
solvent | water | 30 ml | O | H2O
catalyst | zinc bromide | 61 mmol, 13.80 g | [Br-].[Zn+2].[Br-]
solvent | Water | 15 ml | O | H2O
product | 2-nitro-4-(2H-tetrazol-5-yl)-phenylamine | 6.59 g | [N+](=O)([O-])C1=C(C=CC(=C1)C=1N=NNN1)N | C7H6N6O2
